US06200999B1
A mixture of di-tert-butyl dicarbonate (1.1 g, 4.9 mmol), NaHCO3 (1.1 g, 13 mmol) and 1,4-dioxane (3 mL) was added to a solution of (RS)-2-amino-3-(5-carboxy-3-ethoxyisoxazol-4-yl)propionic acid (1.0 g, 4.1 mmol) in a water/1,4-dioxane (1:1) (10 mL), and the resulting mixture was stirred at room temperature for 16 h. The 1,4-dioxane was evaporated in vacuo, and the aqueous phase was acidified with dilute aqueous HCl. The aqueous phase was extracted with ethyl acetate, and the organic extracts washed with water and brine. Dried (MgSO4), concentrated in vacuo and subjected to flash chromatography (SiO2, eluent:, ethyl acetate/ethanol/acetic acid (3:1, 4%)) to give (RS)-2-[(tert-butoxycarbonyl)amino]-3-(5-carboxy-3-ethoxyisoxazol-4-yl)propionic acid (1.4 g, 100%)

reactant | di-tert-butyl dicarbonate | 4.9 mmol, 1.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 13 mmol, 1.1 g | C(=O)(O)[O-].[Na+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | (RS)-2-amino-3-(5-carboxy-3-ethoxyisoxazol-4-yl)propionic acid | 4.1 mmol, 1.0 g | NC(C(=O)O)CC=1C(=NOC1C(=O)O)OCC | C9H12N2O6
solvent | water 1,4-dioxane | 10 mL | O.O1CCOCC1
product | (RS)-2-[(tert-butoxycarbonyl)amino]-3-(5-carboxy-3-ethoxyisoxazol-4-yl)propionic acid | 1.4 g, 100% | C(C)(C)(C)OC(=O)NC(C(=O)O)CC=1C(=NOC1C(=O)O)OCC | C14H20N2O8
